US07662832B2
Step 1: 5-fluoro-2-methoxypyridine
5-amino-2-methoxypyridine (81.5 g, 0.657 mol) was dissolved in a mixture of concentrated hydrochloric acid (120 ml) and water (530 ml). A solution of sodium nitrate (56.5 g, 0.819 mol) in water (100 ml) was added at −5° C. to the solution. The reaction mixture was stirred for 45 minutes at room temperature and sodium nitrate (56.5 g, 0.819 mol) was further added thereto. Hexafluorophosphoric acid (132 ml) was added to the reaction mixture, which was then stirred for 20 minutes at room temperature. The reaction mixture was filtered to obtain a solid, which washed with water and ethyl ether and then dried under reduced pressure. The resulting compound was heated for 15 minutes at 150° C., dissolved in dichloromethane, and then washed with 3N sodium hydroxide solution. The organic layer was dried on anhydrous magnesium sulfate, concentrated under reduced pressure, and then fractionally distilled to give 22.6 g of the titled compound as colorless oil. (Yield: 27%).

reactant | 5-amino-2-methoxypyridine | 0.657 mol, 81.5 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | sodium nitrate | 0.819 mol, 56.5 g | [N+](=O)([O-])[O-].[Na+]
reactant | sodium nitrate | 0.819 mol, 56.5 g | [N+](=O)([O-])[O-].[Na+]
reactant | Hexafluorophosphoric acid | 132 ml | F[P-](F)(F)(F)(F)F.[H+]
solvent | hydrochloric acid | 120 ml | Cl | ClH
solvent | water | 530 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-fluoro-2-methoxypyridine | 22.6 g, Yield: 27% | FC=1C=CC(=NC1)OC | C6H6FNO
